US05977178
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.46 g, 2.42 mmol) and 1-hydroxy-benzotriazole monohydrate(0.37 g, 2.41 mmol) were added to a solution of 2-methylpiperidine-1,4-dicarboxylic acid-1-tert-butylester (0.59 g, 2.42 mmol) in N,N-dimethylformamide (8 mL). After 30 min at 20° C. a solution of (2R)-2-amino-N-methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-3-(2-naphthyl)propionamide (as a trifluoroacetate) (1.0 g, 1.73 mmol) and diisopropylethylamine (0.22 g, 1.73 mmol) in N,N-dimethylformamide (4 mL) was added. After 18h at 20° C. the reaction mixture was poured on water (100 mL) and extracted several times with ethyl acetate (total 60 mL). The collected organic phases were washed with aqueous citric acid (10%, 20 mL), a saturated solution of sodium hydrogen carbonate (20 mL) and water (3×20 mL). After drying (magnesium sulfate) the solution was concentrated in vacuo to give 1.25g of crude 4-(1-{methyl-[1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-naphthyl)ethyl]carbamoyl}-2-(2-naphthyl)ethyl)-carbamoyl)-2-methylpiperidine-1-carboxylic acid tert-butyl ester that was used for the next step without further purification.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 2.42 mmol, 0.46 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-benzotriazole monohydrate | 2.41 mmol, 0.37 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methylpiperidine-1,4-dicarboxylic acid-1-tert-butylester | 2.42 mmol, 0.59 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)C(=O)O)C | C12H21NO4
reactant | (2R)-2-amino-N-methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-3-(2-naphthyl)propionamide | N[C@@H](C(=O)N([C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C)C)CC1=CC2=CC=CC=C2C=C1 | C29H28N4O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | diisopropylethylamine | 1.73 mmol, 0.22 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-methylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)C | C11H21NO2
